US07037905B2
2-(3-Chloro-4-fluorophenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane
The title compound (77%, oil) was prepared from 3-chloro-4-fluorophenylboronic acid and pinacol.

reactant | 3-chloro-4-fluorophenylboronic acid | ClC=1C=C(C=CC1F)B(O)O | C6H5BClFO2
reactant | pinacol | OC(C)(C)C(C)(C)O | C6H14O2
product | 2-(3-Chloro-4-fluorophenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | 77% | ClC=1C=C(C=CC1F)B1OC(C(O1)(C)C)(C)C | C12H15BClFO2
